US07700641B2
A. Synthesis of 3-(4, 5-difluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 3,4-difluorophenol, the title compound was obtained (31%): 1H NMR (300 MHz, CDCl3) δ 9.69-9.65 (br, 1H), 7.51-7.41 (m, 2H), 7.26-7.21 (m, 1H), 6.99-6.57 (m, 3H), 4.18-4.14 (br, 1H), 3.78-3.58 (m, 2H), 1.76-1.62 (m, 2H), 1.40-1.28 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 330 (M−17), 370 (M+23).

reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
product | 3-(4, 5-difluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | FC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H19F2NO3
